US04801705
To a solution of 76.6 g (306 mmol) of boron tribromide in 500 ml of dichloromethane was added dropwise at -78° C. a solution of 20 g (102 mmol) of 2-amino-4,5-dimethoxybenzamide in 1300 ml of dichloromethane. The mixture was allowed to warm slowly to room temperature with stirring overnight. Under ice cooling 250 ml of water added dropwise to the solution. The resulting precipitate was filtered off, washed with water and dried in vacuo over phosphorous pentoxide; yield of 2-amino-4-dihydroxybenzamide, monohydrochloride (contains boric acid) was 30.5 g. In order to remove the boric acid, crude 2-amino-4,5-dihydroxybenzamide, monohydrochloride (30.0 g) was suspended in 900 ml of absolute acetonitrile. Under ice cooling, 183 g bis(trimethylsilyl)acetamide were added, and the mixture was stirred for 1 hour to obtain a clear solution. The solvent was distilled off in high vacuum and the residual green oil was dissolved in 750 ml of absolute ether. After the addition of 165 ml of absolute methanol, an oil separated. The solvent was removed in vacuo and the residue evaporated in high vacuum for 45 minutes. 105 ml of water was added to the residue, and the pH was adjusted to 1 with 1N hydrochloric acid. After extraction with ether, the aqueous solution was freeze dried to yield 60.8 g of crude 2-amino-4,5-dihydroxybenzamide, monohydrochloride which contained acetamide as by-product. Crude 2-amino-4,5-dihydroxybenzamide, monohydrochloride was dissolved in 450 ml of ethanol and after the addition of 1450 ml of ether, 2-amino-4,5-dihydroxybenzamide, monohydrochloride crystallized out. After two days, the crystals were collected by filtration, washed with ether and dried in vacuo; yield: 11.3 g, melting point >300° C.

reactant | boron tribromide | 306 mmol, 76.6 g | B(Br)(Br)Br | BBr3
reactant | 2-amino-4,5-dimethoxybenzamide | 102 mmol, 20 g | NC1=C(C(=O)N)C=C(C(=C1)OC)OC | C9H12N2O3
reactant | water | O | H2O
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 1300 ml | ClCCl | CH2Cl2
product | 2-amino-4,5-dihydroxybenzamide, monohydrochloride | 60.8 g | Cl.NC1=C(C(=O)N)C=C(C(=C1)O)O | InChI=1S/C7H8N2O3.ClH/c8-4-2-6(11)5(10)1-3(4)7(9)12;/h1-2,10-11H,8H2,(H2,9,12);1H
